US03994890
By the procedure similar to that described in Example 27, 1-carbamoylethyl-3-phenyl-5-chloroindazole (m.p. 156°-157° C) (5.0 g) was treated with the use of lithium aluminum hydride (1.5 g) to obtain 2.0 g of 1-aminopropyl-3-phenyl-5-chloroindazole hydrochloride having a melting point between 163°-164° C after recrystallization from ethanol-ether.

reactant | 1-carbamoylethyl-3-phenyl-5-chloroindazole | 5.0 g | C(N)(=O)C(C)C1=C2C(=NNC2=CC=C1Cl)C1=CC=CC=C1 | C16H14ClN3O
reactant | lithium aluminum hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-aminopropyl-3-phenyl-5-chloroindazole hydrochloride | 2.0 g | Cl.NC(CC)C1=C2C(=NNC2=CC=C1Cl)C1=CC=CC=C1 | InChI=1S/C16H16ClN3.ClH/c1-2-12(18)14-11(17)8-9-13-15(14)16(20-19-13)10-6-4-3-5-7-10;/h3-9,12H,2,18H2,1H3,(H,19,20);1H
